Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
___ reported h/o depression and heavy alcohol
use without formal past treatment, brought in by EMS after
ibuprofen overdose with SI, consulted by ED Dr. ___.
"I've just been going through some issues, that's it." 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ says that she has been depressed since age ___, last
felt good around age ___. She says that she doesn't like what has
happened with her life, upset about a lack of accomplishments,
mad because she doesn't respect herself. She says there are many
things going on in her life but that she does not want to talk
with me about them because she doesn't like to talk with people.
She says something has happened that made her more depressed for
the last ___ years, and for the last couple weeks she has been 
even
more depressed. She says she has been drinking to the point of
drunkenness ___ times a week to "help" her depression by making
her forget things; but she finds that the problems are back 
again
when she sobers up. Because of this drinking, she has called out
to work a few times recently and is worried that she may lose 
her
job (at times refers to herself as "unemployed," at times says
it's definitely not for sure that she will be fired). She says
initially that her mom doesn't want her back home because she
thinks she is a bad influence on her ___ autistic 
brother
who lives there too. She said she would have to stay with a
friend instead; but when I talked about hospitalization, she 
said
she was pretty sure she could talk her mom into letting her come
back home. At another time refers to herself as "homeless."

She says today she was feeling really upset about her life and
asked her mom for ibuprofen. She says she took "two handfuls,"
about ___ grams of ibuprofen. She says she started to feel a
little drowy/lightheaded, and her mom asked how many ibuprofen
she took, she she told her, and her mom called ___. Her mom 
asked
her why she was "being suicidal," and she said she wasn't "like
that." She says that she wanted to see what would happen, didn't
care if it killed her, didn't know what it would do to her and
thought "taking pills" would at least make her pass out. She 
says
she does not know if she regrets living, still doesn't want to
live her life, but denies ongoing plan/intent to harm herself.
Specifically notes that she will not stab or shoot herself.
Repeatedly downplays the significance of today's event, saying
she has "never" and would "never" do anything to hurt herself.
Says she wants to go home and shower, says we can call her and
she'll come back to get outpatient treatment.

Endorses depressed moon, anhedonia, increased sleep ___ hrs
daily), ___ appetite, weight loss of 15 lbs over unknown number
of months.
Denies ___ energy when awake, im.aired memory/focus, HI, AVH,
paranoia, past manic symptoms.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
No formal diagnosis, but reports depression since age ___
Hospitalizations: Denies
Current treaters and treatment: Denies
Medication and ECT trials: Denies
Self-injury: Denies 
Harm to others: H/o fights, both domestic fights and fights in
school
Access to weapons: Denies

PAST MEDICAL HISTORY:
PCP ___
HTN
___ iron
H/o head trauma in ___ or ___ from being hit in head with
hockey stick by ex-girlfriend, had subsequent eye swelling but
was told she had no head injury. No LOC.
Denies h/o seizures

 
Social History:
SOCIAL HISTORY
- Born and raised in ___ with mom and younger brother, dad 
not
in picture
- Lives with mom and brother now, though mom may not want her
back home.
- Denies other supportive relationships
- Education through senir year of high school, after which she
was kicked out for fighting (says ___ fight she'd had at school)
- Works in grocery store, says job is in jeopardy
- Believes in God, does not go to church, believes she would go
to hell if she killed herself
- H/o domestic violence with ex-girlfriend including head trauma
as noted above, denies childhood abuse, denies sexual trauma.
Says she feels safe in her current environment.

SUBSTANCE ABUSE HISTORY:
- EtOH: Drinks ___ times weekly, beer and liquor, until drunk.
Takes about 5 beers and ___ pint liquor to get drunk. Denies h/o
withdrawl symptoms, h/o treatment. Denies legal problems, but 
has
missed work a few times after getting drunk. Drinks to "help" 
her
depression.
- Denies illicits
- Smokes 1 ppd, asks to go outside and smoke now
- Occasional caffeine

FORENSIC HISTORY:
Arrests: Once senior year of high school for assault and battery
with a dangerous weapon, went to court, not convicted. Also went
to court a couple times for a domestic violence charge for
fighting with ex-girlfriend in front of her children, not
convicted.
Convictions and jail terms: Denies
Current status (pending charges, probation, parole): Denies

 
Family History:
FAMILY PSYCHIATRIC HISTORY: Brother with autism. Denies knowing
of any other psychaitric illness, any substance abuse, and
suicides/suicide attempts in family.

 
Physical Exam:
Physical Examination:
VS:  98.0, 135/100, 87, 16, 100%RA
General- NAD
HEENT- PERLLA, no nasal or pharyngeal erythema
Lungs-CTAB
CV-normal S1, S2, RRR, no MRG
Abdomen: soft, NT, ND, +BS
Extremities- PPP, no CCE
Neuro-
Cranial Nerves II-XII focally intact
     Motor:
       Delt:C5  Bic:C6   Tri:C7   Wr ext:C6   Fing ext:C7
Left     5          5     5          5               5     
Right    5          5     5          5               5
        IP:   Quad:    Hamst:   Dorsiflex:   ___:   Pl.flex
Left     5      5          5          5        5       5
Right    5      5          5          5        5       5
*Deep tendon Reflexes:
       Bicip:  Tric:  Brachial:  Patellar:  Achilles:   Toes:
Left     
Right

Sensation: light touch sensation intact distally bilateral UE, 
___
Coordination:
     Finger-nose-finger
     Rapid Arm Movements intact
     Fine finger tapping
     Heel to shin
Gait/Romberg: normal gait

Neuropsychiatric Examination:
  *Appearance: ___ AAF, appears stated age, braided hair,
wearing hospital gown
  Behavior: cooperative attitude, good eye contact, sitting
upright in chair, no abnormal movements
  *Mood and Affect: mood is "stressed," affect is euthymic, full
range, mood congruent
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
goal directed, linear
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): denies SI, HI, AVH, PI, IOR
  *Judgment and Insight: limited
  Cognition:
    *Attention, *orientation, and executive function: alert,
oriented x3, DLROW
    *Memory: ___
    *Fund of knowledge: ___
    Calculations: quarters in 2.25 = 9
    Abstraction: apple/orange = round, you can peel them
    Visuospatial:
    *Speech: normal rate, normal volume, normal prosody
    *Language: intact naming and repetition, grossly intact

 
Pertinent Results:
___ 06:50AM BLOOD WBC-5.5# RBC-5.21 Hgb-10.7* Hct-36.8 
MCV-71* MCH-20.6* MCHC-29.1* RDW-18.3* Plt ___
___ 06:50AM BLOOD Neuts-60.9 ___ Monos-6.0 Eos-2.9 
Baso-0.3
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD TSH-1.0
 
Brief Hospital Course:
#Safety: Patient presented following overdose on ibuprofen ___ 
in the setting of heavy alcohol use. While on unit patient had 
no SI or HI, felt safe and able to make needs known to staff.  
She was restricted to the unit with q15 minute checks.  At time 
of discharge no active SI.  Patient presented with dymanic 
safety risk factor of active alcohol use. At time of discharge 
patient was clear of EtOH and was enrolled in substance abuse 
treatment program.  Patient has many protective factors 
including intelligence, employment, family support and support 
of primary care physcian. 

#Legal: ___
#Depression NOS, r/o SIMD: Patient endorsed ongoing depressed 
mood but did not meet full criteria for depressive episode.  No 
antidepressents were started.  Patient's mood brightened during 
hospitalization in the setting of self-discovery, group therapy 
focusing on empowerment and her decision to atain sobriety. 
Depressive symptoms likely substance induced. Patient scheduled 
to see social worker at ___'s office on day of discharge.  
Additionally, she will follow-up with PCP and begin ___ substance 
abuse recovery program in the week following discharge.

#Substance Abuse: Patient presented with alcohol dependance.  
She reported drinking ___ beers, ___ nips at a time ___.  
She had no active signs of alcohol withdrawal during admission.  
She attended AA and plans were made for her to enrole in the 
Structured Outpatient Addiction Program at The ___. 
After compleion of the program she will be set up with an 
outpatient therapist. Patient was commited to sobriety at the 
time of discharge.  
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol dependence, rule out substance induced mood disorder 
versus depressive disorder NOS

 
Discharge Condition:
VS: 98.1  82  140/100 16  100%RA
*Appearance: ___ AAF, appears stated age, hair pulled back, 
wearing T-shirt and hospital pajama pants
  Behavior: cooperative attitude, good eye contact, sitting
upright in chair, no abnormal movements, rubbing eyes from time 
to time
  *Mood and Affect: mood is 'fine, tired,' affect is euthymic, 
full
range, mood congruent
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
goal directed, linear, logical
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): denies SI, HI, AVH, PI, IOR. Agrees to take 
night off from work and resume tomorrow
  *Judgment and Insight: fair
      *Speech: normal rate, normal volume, normal prosody
    *Language: fluent, grossly intact

 
Discharge Instructions:
Dear Ms. ___,
   You were in the hospital after an overdose of ibuprofen while 
on a drinking binge.  Together we have established that alcohol 
abuse is a problem for your physical and mental health.  You 
will be starting a substance abuse program at the ___ 
on the ___.  Prior to that you have an appointment with the 
social worker at your PCP's office later today at 3pm.  Please 
feel free to call the social worker with any concerns, 
especially in the next few days before your program officially 
begins. 

We wish you the best,
  Your medical team. 
 
Followup Instructions:
___